US09381196B2
To a mixture of 4-bromo-2-nitroaniline (217 mg, 1.0 mmol), phenylboronic acid (122 mg, 1.0 mmol), tetrakis-(triphenylphosphine)palladium (55 mg, 0.05 mmol) and cesium carbonate (650 mg, 2.0 mmol) was added 3 mL of ethyleneglycol dimethyl ether (DME). The reaction was heated to 80° C. and stirred under nitrogen atmosphere overnight. The mixture was filtered through a celite pad. The filtrate was concentrated and purified by biotage column chromatography to give 4-nitrobiphenyl-3-amine (207 mg)

reactant | 4-bromo-2-nitroaniline | 1.0 mmol, 217 mg | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | phenylboronic acid | 1.0 mmol, 122 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 2.0 mmol, 650 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyleneglycol dimethyl ether | 3 mL | COCCOC | C4H10O2
product | 4-nitrobiphenyl-3-amine | 207 mg | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC=CC=C1)N | C12H10N2O2
